US09216980B2
Step 3: 2-Ethyl-8-methoxy-1,2,3,4-tetrahydroisoquinolin-6-ol
A mixture of 2-ethyl-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline (280 mg, 1.27 mmol) in 48% aqueous hydrobromic acid (3 mL) was heated at 65° C. for 24 h. The mixture was added to saturated sodium hydrogen carbonate solution and extracted with ethyl acetate (3×50 mL). The combined organic phase was washed with water, dried over anhydrous sodium sulfate, filtered and evaporated in vacuo. The resultant solid was purified by flash chromatography (silica, 12 g column, ISCO, 0-20% (2N ammonia in MeOH) in DCM) to afford the title compound as an off white solid (153 mg, 58%). 1H NMR (CDCl3, 300 MHz): 6.11 (d, J=2.2 Hz, 1H), 5.93 (d, J=2.2 Hz, 1H), 3.67 (s, 3H), 3.55-3.49 (m, 2H), 2.72-2.58 (m, 6H), 1.21 (t, J=7.2 Hz, 3H). LCMS (Method B): RT=1.58 min, M+H+=208.

reactant | 2-ethyl-6,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 1.27 mmol, 280 mg | C(C)N1CC2=C(C=C(C=C2CC1)OC)OC | C13H19NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrobromic acid | 3 mL | Br | BrH
product | 2-Ethyl-8-methoxy-1,2,3,4-tetrahydroisoquinolin-6-ol | C(C)N1CC2=C(C=C(C=C2CC1)O)OC | C12H17NO2
